US07345038B2
To a solution of 2-chloro-5-(chloromethyl)pyridine (500 mg, 3.08 mmole) in 4 mL of dry acetonitrile is added 420 mL (6.17 mmol) of imidazole followed by 852 mg (6.17 mmol) of potassium carbonate. The reaction is heated at 80° C. for 20 h. After cooling, the reaction mixture is quenched with 5 mL of water, extracted three-times with methylene chloride, and dried over sodium sulfate. Concentration of the solvent provided an oil which was purified by silica gel chromatography to provide 410 mg (69% yield) of 2-Chloro-5-imidazol-1-ylmethyl-pyridine. Diagnostic C13 NMR (100 MHz, CDCl3) 47.7, 119.2, 124.9, 130.6, 131.1, 137.5, 137.8, 148.6, 151.8; MS 194.2 (M+H).

reactant | 2-chloro-5-(chloromethyl)pyridine | 3.08 mmole, 500 mg | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | imidazole | 6.17 mmol, 420 mL | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 6.17 mmol, 852 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | 2-Chloro-5-imidazol-1-ylmethyl-pyridine | 410 mg, 69% yield | ClC1=NC=C(C=C1)CN1C=NC=C1 | C9H8ClN3
